US07427635B2
{(R)-[4-(2-Morpholin-4-yl-ethoxy)-phenyl]-[(1S,2S)-2-phenyl-1-(4-propionyl-thiazol-2-ylcarbamoyl)-propylcarbamoyl]-methyl}-carbamic acid-tert-butyl ester (0.19 mmol) was dissolved in a 30% v/v solution of trifluoroacetic acid in dichloromethane (5 mL) at 0° C. After stirring for 2 hours the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous layer was adjusted to pH=8 by the addition of solid sodium bicarbonate. The aqueous layer was again extracted with ethyl acetate (2×). The combined organic layers was dried over sodium sulfate, filtered and concentrated in vacuo to give crude (2S,3S)-2-{(R)-2-amino-2-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-acetylamino}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide which was used immediately and without further purification.

reactant | {(R)-[4-(2-Morpholin-4-yl-ethoxy)-phenyl]-[(1S,2S)-2-phenyl-1-(4-propionyl-thiazol-2-ylcarbamoyl)-propylcarbamoyl]-methyl}-carbamic acid-tert-butyl ester | 0.19 mmol | C(C)(C)(C)OC(N[C@@H](C(N[C@@H]([C@@H](C)C1=CC=CC=C1)C(NC=1SC=C(N1)C(CC)=O)=O)=O)C1=CC=C(C=C1)OCCN1CCOCC1)=O | C35H45N5O7S
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,3S)-2-{(R)-2-amino-2-[4-(2-morpholin-4-yl-ethoxy)-phenyl]-acetylamino}-3-phenyl-N-(4-propionyl-thiazol-2-yl)-butyramide | N[C@@H](C(=O)N[C@H](C(=O)NC=1SC=C(N1)C(CC)=O)[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)OCCN1CCOCC1 | C30H37N5O5S
